US07868197B2
N-(4-Bromo-2,6-dimethylphenyl)(4,5-dimethyl-6H-cyclopenta[b]thien-6-yl)dimethylsilanamine
Under an argon atmosphere, to a solution of 12.4 g (61.9 mmol) of 4-bromo-2,6-dimethylaniline in 300 ml of THF, 16.5 ml of 2.5 M (41.2 mmol) nBuLi in hexanes was added at −80° C. This mixture was warmed for ca. 2 hour to ambient temperature. Then, the resulting solution was added dropwise over ca. 1 hour, while vigorously stirring, to a solution of 10.0 g (41.2 mmol) of chloro(4,5-dimethyl-6H-cyclopenta[b]thien-6-yl)dimethylsilane in 50 ml of THF. The resulting mixture was stirred overnight at ambient temperature, and then, evaporated to dryness. To the residue, 150 ml of toluene was added. This mixture was filtered through a glass frit (G4). The filtrate was evaporated to dryness. Fractional distillation gave a yellow liquid, bp 154-156° C./0.05 mm Hg. The product crystallizes slowly at ambient temperature. Yield 8.36 g (50%).

reactant | 4-bromo-2,6-dimethylaniline | 61.9 mmol, 12.4 g | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
reactant | nBuLi | 41.2 mmol, 2.5 M | [Li]CCCC
reactant | chloro(4,5-dimethyl-6H-cyclopenta[b]thien-6-yl)dimethylsilane | 41.2 mmol, 10.0 g | Cl[Si](C)(C)C1C(=C(C2=C1SC=C2)C)C | C11H15ClSSi
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(4-Bromo-2,6-dimethylphenyl)(4,5-dimethyl-6H-cyclopenta[b]thien-6-yl)dimethylsilanamine | BrC1=CC(=C(C(=C1)C)N[Si](C)(C)C1C(=C(C2=C1SC=C2)C)C)C | C19H24BrNSSi
